US07151097B2
Preparation of Intermediate 4-(2-tert-Butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic Acid (I-4c)
To a solution of 4-(2-tert-butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-4b, 900 mg) in ethanol (50 ml) at room temperature was added 1 N KOH (25 ml). The reaction mixture was heated at 50° C. for 2 hours, cooled to room temperature, diluted with saturated aqueous NaCl, and acidified to pH 3 with 3N HCl. The aqueous solution was extracted with EtOAc (2×) and the combined organic extracts were dried and concentrated in vacuo to give the product I-4c as an amorphous glass (879 mg): +ES MS (M+1) 491.5.

reactant | 4-(2-tert-butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 900 mg | C(C)OC(=O)C1=NN(C(=C1NCCNC(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C25H28Cl2N4O4
reactant | KOH | 1 N, 25 ml | [OH-].[K+]
reactant | HCl | 3N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | NaCl | [Na+].[Cl-]
product | 4-(2-tert-Butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic Acid | 879 mg | C(C)(C)(C)OC(=O)NCCNC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C23H24Cl2N4O4
